US07786108B2
Step 2. Preparation of (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid
Heat the mixture of (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid benzyl ester (0.0340 g, 0.0427 mmol) in 5.0 N NaOH (1 mL) and methanol (1 mL) at 60° C. for 2 h. Evaporate the solvents and re-dissolve in water (10 mL). Adjust to pH=2 by adding 5.0 N HCl. Extract with ethyl acetate (2×10 mL). Combine organic layers, dry over anhydrous sodium sulfate and filter. Remove the solvent under reduced pressure. Chromatograph the residue over silica gel, eluting with ethyl acetate/hexanes (0-50%), to provide the title compound as a colorless oil (0.0200 g, 67%). MS (ES+): MS (ES+): 707 (M+H).

reactant | (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid benzyl ester | 0.0427 mmol, 0.0340 g | C(C1=CC=CC=C1)OC(CC1CCC(CC1)CN1C2=C(C(CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C)=O | C39H41F9N6O2
solvent | NaOH | 5.0 N, 1 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid | 0.0200 g, 67% | FC(C=1C=C(CN(C2C3=C(N(CCC2)CC2CCC(CC2)CC(=O)O)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C32H35F9N6O2
